US09062092B2
A solution of [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester (105 mg, 0.3 mmol), 2,2-bis-fluoromethyl-but-3-enoic acid (50 mg, 0.33 mmol), tri(o-tolyl)phosphine (18 mg, 0.06 mmol) and triethylamine (91 mg, 0.13 mL, 0.9 mmol) in 1,4-dioxane (3 mL) was degassed with nitrogen for 15 min. Tris(dibenzylideneacetone)dipalladium(0) (28 mg, 0.03 mmol) was added and the reaction mixture was heated to 60° C. for 1 h. The reaction mixture was cooled to room temperature and the mixture was filtered through a hydrophobic frit and the filtrate was evaporated to afford crude (E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoic acid (0.3 mmol) as a yellow gum. LCMS (m/z) 421.1 [M+H], Tr=2.27 min. A solution of crude (E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoic acid (0.3 mmol), N,N-diisopropylethylamine (96 mg, 0.13 mL, 0.75 mmol), 4-(dimethylamino)-pyridine (73 mg, 0.6 mmol) and 2-methyl-6-nitrobenzoic anhydride (193 mg, 0.56 mmol) in anhydrous dichloromethane (5 mL) was stirred at 0° C. under nitrogen. A solution of (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (142 mg, 0.33 mmol) in dichloromethane (2 mL) was added and the reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 18 h. The reaction mixture was diluted with dichloromethane and the solution was washed with ice-cold saturated sodium hydrogen carbonate solution, water, ice-cold hydrochloric acid (1 M), water and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 2:1 to 0:1 to afford the partially purified title compound (26 mg, 10%) as a yellow gum. LCMS (m/z) 834.3, 836.2 [M+H], Tr=3.39 min.

reactant | [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester | 0.3 mmol, 105 mg | C(C)(C)(C)OC(N[C@H](C)C1=NC2=CC(=CC=C2C=C1)Br)=O | C16H19BrN2O2
reactant | 2,2-bis-fluoromethyl-but-3-enoic acid | 0.33 mmol, 50 mg | FCC(C(=O)O)(C=C)CF | C6H8F2O2
reactant | tri(o-tolyl)phosphine | 0.06 mmol, 18 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.9 mmol, 0.13 mL, 91 mg | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.03 mmol, 28 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoic acid | 0.3 mmol | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O)(CF)CF | C22H26F2N2O4
